US07414076B2
Preparation of 3-(1,1-dimethyl-2-hydroxyethyl)amino-1-propanesulfonic acid (Compound DH)
To a solution of 2-amino-2-methyl-1-propanol (2.0 g, 21.4 mmol) in tetrahydrofuran (15 mL) was added 1,3-propane sultone (2.66 g, 21.4 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The crude product was collected by filtration, washed with acetone (2×25 mL). The solid was suspended in EtOH (50 mL). The suspension was stirred at reflux for 5 minutes. The solid was collected by filtration and dried in a vacuum oven (50° C.), affording compound DH (2.5 g, 58%): 1H NMR (D2O, 500 MHz) δ ppm 3.48 (s, 2H), 3.04 (t, 2H, J=7.8 Hz), 2.90 (t, 2H, J=7.3 Hz), 2.00 (m, 2H), 1.18 (s, 6H). 13C NMR (D2O, 125 MHz) δ ppm 64.88, 60.27, 48.19, 40.10, 21.92, 20.02. ES-MS 210 (M−1).

reactant | 2-amino-2-methyl-1-propanol | 21.4 mmol, 2.0 g | NC(CO)(C)C | C4H11NO
reactant | 1,3-propane sultone | 21.4 mmol, 2.66 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(1,1-dimethyl-2-hydroxyethyl)amino-1-propanesulfonic acid | CC(CO)(C)NCCCS(=O)(=O)O | C7H17NO4S
